* C:\Users\karan\Desktop\Practical of FEE\mosfet.asc
C1 N003 INPUT 10µ
C2 OUTPUT N002 10µ
V2 N001 0 20
V1 INPUT 0 SINE(0 20m 1k)
M1 N002 N003 N006 N004 Si7336ADP
R1 N005 0 10K
R2 N001 N005 50K
R3 N001 N002 10K
R4 N006 0 1.5K
R5 OUTPUT 0 1K
C3 N006 0 10µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\karan\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 5m
.backanno
.end
